US07547806B2
A) Preparation of Rasagiline Base Oil
120 g of rasagiline mesylate (R(+)-N-propargyl-1-aminoindan mesylate) were dissolved in 700 ml of deionized water. 400 ml of toluene were added and the mixture was basified with 25% NaOH solution to a pH of about 14. After stirring, two phases separated. The lower water phase was extracted with 200 ml of toluene. The phases were allowed to separate and the aqueous phase was discarded.

reactant | rasagiline mesylate | 120 g | CS(=O)(=O)O.C#CCN[C@@H]1CCC2=C1C=CC=C2
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | NaOH | [OH-].[Na+]
solvent | water | 700 ml | O | H2O
product | Rasagiline | C#CCN[C@@H]1CCC2=C1C=CC=C2 | C12H13N
